US07956216B2
Using Preparation Method 1, 3-bromobenzoic acid was reacted with 3-pyridylmethylamine. The resulting reaction mixture was purified using SiO2 with CH2Cl2/MeOH 95:5 to give N-(3-pyridylmethyl)-3-bromobenzamide as thick yellow oil (73%). NMR 1H (ppm, CDCl3): 8.44 (s, 1H), 8.41 (d, J4=3.9 Hz, 1H), 7.92 (s, 1H), 7.69 (d, J3=7.8 Hz, 1H), 7.64 (d, J3=7.8 Hz, 1H), 7.57-7.54 (m, 2H), 7.24-7.18 (m, 2H), 4.55 (d, J3=5.9 Hz, 2H).

reactant | 3-bromobenzoic acid | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 3-pyridylmethylamine | N1=CC(=CC=C1)CN | C6H8N2
product | N-(3-pyridylmethyl)-3-bromobenzamide | 73% | N1=CC(=CC=C1)CNC(C1=CC(=CC=C1)Br)=O | C13H11BrN2O
